US06953791B2
A. 2(R)-Amino-5phenyl-pentanoic acid (2(S)-hydroxy-1(S)-methyl-2-phenyl-ethyl)-methyl-amide:
A solution of pseudoephedrine glycinamide (1.5 g, 6.75 mmol), prepared and used by the method of Myers et al. (J. Am. Chem. Soc. 1997, 119, 656), and LiCI (1.71 g, 40.5 mmol) in THF (30 mL) was cooled to −78° C. and n-BuLi was added (13.16 mmol, 5.25 mL of a 2.5 M solution). After stirring for 20 min at −78° C., the reaction was warmed to 0° C. and stirred an additional 20 minutes. 3-Phenyl-1-bromopropane (1.3 mL, 7.42 mmol) was added and the reaction was stirred for 2 h at 0° C. Aqueous 1 N HCl (50 mL) and EtOAc (50 mL) were added, the organic phase was separated and extracted with 1 N HCl (50 mL). The aqueous extracts were combined, cooled in an ice bath and slowly basified to pH 14 with 6 N NaOH. The product was extracted with CH2Cl2 (4×50 mL) and the combined extracts were dried over MgSO4 and concentrated to give a yellow oil. Purification by flash chromatography (SiO2 gel, 92:4:4, CH2Cl2:MeOH:triethylamine) delivered 400 mg (78%) of the Product of Example 199, Step A: +APcI MS (M+1)+ 341; 1H NMR=400 MHz (CDCl3) δ: 7.38 (m, 10H), 5.26 (m, 1H), 4.15 (m, 1H), 3.86 (m, 1H), 2.36 (s, 3H).

reactant | pseudoephedrine glycinamide | 6.75 mmol, 1.5 g | CC(C(C1=CC=CC=C1)O)N(C)C(=O)CN | C12H18N2O2
reactant | n-BuLi | [Li]CCCC
reactant | 3-Phenyl-1-bromopropane | 7.42 mmol, 1.3 mL | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | HCl | 1 N, 50 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2(R)-Amino-5phenyl-pentanoic acid (2(S)-hydroxy-1(S)-methyl-2-phenyl-ethyl)-methyl-amide | O[C@H]([C@H](C)N(C([C@@H](CCCC1=CC=CC=C1)N)=O)C)C1=CC=CC=C1 | C21H28N2O2
